US05244908
(1) Synthesis of 3-bromo-5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine (Compound 18')
To a solution of 5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine (279 mg, 1 mmole) in chloroform (5 ml) was added N-bromosuccinimide (187 ml, 1.05 mmoles) and the mixture was stirred at room temperature for 1 hour. The reaction solution was washed with water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 296 mg of the desired product (82.7%, colorless solid).

reactant | 5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine | 1 mmole, 279 mg | C(C)(C)OC(=O)NCCSC1=CC=CC=2N1C=CN2 | C13H17N3O2S
reactant | N-bromosuccinimide | 1.05 mmoles, 187 ml | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-5-[2-(isopropyloxycarbonylamino)ethylthio]imidazo[1,2-a]pyridine | 296 mg, 82.7% | BrC1=CN=C2N1C(=CC=C2)SCCNC(=O)OC(C)C | C13H16BrN3O2S
